US07989444B2
Preparation 54: 1,1-dimethylethyl 10-bromo-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]-benzazepine-7-carboxylate
1,1-Dimethylethyl 8-amino-6-bromo-7-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (1.604 g) was treated with trimethyl orthoacetate (0.856 ml) and pyridinium p-toluenesulfonate (112 mg) in dry DMF (23 ml) at 60° C. for 1.5 hours. Volatiles were evaporated under reduced pressure and the residue was purified on silica gel (ethyl acetate/petroleum ether: 1/6) providing the title compound as white solid (1.553 g, 90% yield).

reactant | 1,1-Dimethylethyl 8-amino-6-bromo-7-hydroxy-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.604 g | NC=1C(=C(C2=C(CCN(CC2)C(=O)OC(C)(C)C)C1)Br)O | C15H21BrN2O3
reactant | trimethyl orthoacetate | 0.856 ml | C(C)(OC)(OC)OC | C5H12O3
reactant | pyridinium p-toluenesulfonate | 112 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | DMF | 23 ml | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl 10-bromo-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]-benzazepine-7-carboxylate | 1.553 g, 90% yield | BrC1=C2C(=CC=3CCN(CCC31)C(=O)OC(C)(C)C)N=C(O2)C | C17H21BrN2O3
